US04036872
A solution of 1-chloro-3-propoxyacetone (8.5 g.) and triphenylphosphine (15.6 g.) in chloroform (20 ml.) was saturated with nitrogen and heated at reflux under nitrogen overnight. An excess of dry diethyl ether was added, and then the solvents were decanted from the gum that separated. The remaining solvent was removed in vacuo to give crude 2-oxo-3-propoxypropyltriphenylphosphonium chloride (14.9 g.). This was stirred vigorously with a solution of sodium carbonate (14.6 g.) in water (146 ml.) for 24 hours. The solution was extracted with diethyl ether and the ethereal extracts dried over sodium sulphate. The solvent was removed by evaporation, and the residue was triturated with petroleum to give propoxyacetylmethylenetriphenylphosphorane (6.3 g.), a sticky solid.

reactant | 1-chloro-3-propoxyacetone | 8.5 g | ClCC(=O)COCCC | C6H11ClO2
reactant | triphenylphosphine | 15.6 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-oxo-3-propoxypropyltriphenylphosphonium chloride | 14.9 g | [Cl-].O=C(C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)COCCC | InChI=1S/C24H26O2P.ClH/c1-2-18-26-19-21(25)20-27(22-12-6-3-7-13-22,23-14-8-4-9-15-23)24-16-10-5-11-17-24;/h3-17H,2,18-20H2,1H3;1H/q+1;/p-1
